US07582626B2
d) cis-N-{3-[1-(2-Dimethylamino-ethyl)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
A solution of 2-{(2-dimethylamino-ethyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclopentanecarboxylic acid ethyl ester (25.4 mg, 0.047 mmol) in ethanol (2 mL) was treated with a 21% w/w solution of sodium ethoxide in ethanol (0.070 mL) and stirred for 2 h at 60° C. Glacial acetic acid (0.100 mL) was added, the solvents were removed in vacuo, and the crude material was purified by prep-HPLC [Column Luna 5μ C18 (2) 100 Å AXIA 50×21.2 mm, 5 micron, 30%-90% in 7 min @ 30 mL/min flow rate, 0.05% trifluoroacetic acid in acetonitrile/0.05% trifluoroacetic acid in water] to afford the desired product, cis-N-{3-[1-(2-dimethylamino-ethyl)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (5.7 mg, 0.011 mmol, 23.4%), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.53-1.67 (3H, m), 2.02-2.19 (3H, m), 2.88 (6H, s), 3.07 (3H, s), 3.24-3.33 (2H, m), 3.38-3.45 (2H, m), 3.92-3.98 (1H, m), 4.08-4.15 (1H, m), 7.52-7.58 (3H, m), 9.27 (1H, s), 10.20 (1H, s). LC-MS (ESI) calcd for C20H27N5O6S2 497.14, found 498.3 [M+H+].

reactant | 2-{(2-dimethylamino-ethyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclopentanecarboxylic acid ethyl ester | 0.047 mmol, 25.4 mg | C(C)OC(=O)C1C(CCC1)N(C(CC1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O)CCN(C)C | C22H33N5O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | acetic acid | 0.100 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 0.070 mL | C(C)O | C2H6O
product | cis-N-{3-[1-(2-dimethylamino-ethyl)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.011 mmol, 5.7 mg, 23.4% | CN(CCN1C(C(=C([C@@H]2CCC[C@H]12)O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O)C | C20H27N5O6S2
